US09034899B2
A mixture of 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (2.0 g, 3.27 mmol), bis(pinacolato)diboron (914 mg, 3.6 mmol) and potassium acetate (963 mg, 9.81 mmol) in dimethyl sulfoxide (15 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (131 mg, 0.16 mmol) was added. The mixture was degassed again and then heated to 80° C. for 2.5 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated to give 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline as a brown oil that was used without purification: ESI MS m/z 589 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 3.27 mmol, 2.0 g | FC(S(=O)(=O)OC1=CC=C2C(CN(CC2=C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl)(F)F | C22H15Cl2F3N2O7S2
reactant | bis(pinacolato)diboron | 3.6 mmol, 914 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.81 mmol, 963 mg | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H27BCl2N2O6S
